US05861516
A process according to claim 1 which comprises reacting (R)-1-[2-(2,4-difluorophenyl)oxiran-2-ylmethyl]-1H-1,2,4-triazole with hydrazine hydrate to form 2-(2,4-difluorophenyl)-1-hydrazino-3-(1H-1,2,4-triazol-1-yl)propan-2-ol, reacting this product with methyl (E)-4-(2,2,3,3)-tetrafluoropropoxy)cinnamimidate, and subsequently reacting the (E)-N-[2-(2,4-difluorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propyl]-4-(2,2,3,3-tetrafluoropropoxy)cinnamamidrazone product with ethyl orthoformate to form (R)-2-(2,4-difluorophenyl)-1-(3-[(E)-4-(2,2,3,3-tetrafluoropropoxy)styryl]-1H-1,2,4-triazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol.

reactant | (R)-1-[2-(2,4-difluorophenyl)oxiran-2-ylmethyl]-1H-1,2,4-triazole | FC1=C(C=CC(=C1)F)[C@@]1(OC1)CN1N=CN=C1 | C11H9F2N3O
reactant | hydrazine hydrate | O.NN
product | 2-(2,4-difluorophenyl)-1-hydrazino-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | FC1=C(C=CC(=C1)F)C(CNN)(CN1N=CN=C1)O | C11H13F2N5O
